US06333414B1
a) Synthesis of 2-oxo-1,2-diphenylethyl acetate
2 g of benzoin with 15 ml of acetic anhydride and a few drops of sulphuric acid are added to a reactor with stirring and at room temperature (25° C.) for 15 hours. Water and dichloromethane are added to the reaction mixture. The organic phase is recovered after separating by settling, dried over sodium sulphate, filtered and then concentrated to dryness under vacuum.

reactant | benzoin | 2 g | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | O | H2O
catalyst | sulphuric acid | a few drops | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-oxo-1,2-diphenylethyl acetate | C(C)(=O)OC(C(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C16H14O3
